US08748652B2
At 5° C., 19.0 g of propargyl butylcarbamate (0.122 mol), 12.2 g of sodium hydroxide (0.305 mol) and 18.5 g of sodium iodide (0.123 mol) are introduced as initial charge in 50 g of water and 48 g of methanol. Chlorine (11.7 g, 0.165 mmol) is then slowly introduced so that the temperature remains below 5° C. When the metered addition is complete, the mixture is stirred at this temperature for 1 h, then slowly heated to room temperature and stirred for 1 hour. After adding 100 g of water, the precipitated solid is isolated by filtration, washed with water and dried in vacuo. This gives 29.1 g of 3-iodo-2-propynyl N-butylcarbamate (purity: 94.7% (HPLC), polyiodized compounds: <0.1% (HPLC), yield: 80%).

reactant | propargyl butylcarbamate | 0.122 mol, 19.0 g | C(CCC)NC(OCC#C)=O | C8H13NO2
reactant | sodium hydroxide | 0.305 mol, 12.2 g | [OH-].[Na+]
reactant | sodium iodide | 0.123 mol, 18.5 g | [I-].[Na+]
reactant | Chlorine | 0.165 mmol, 11.7 g | ClCl | Cl2
solvent | water | 50 g | O | H2O
solvent | methanol | 48 g | CO | CH4O
solvent | water | 100 g | O | H2O
product | 3-iodo-2-propynyl N-butylcarbamate | 29.1 g, yield: 80% | C(CCC)NC(OCC#CI)=O | C8H12INO2
